US09226922B2
A mixture of ethyl 4,6-dichloro-2-methylnicotinate (5.00 g, 21.36 mmol) and hydrazine monohydrate (2.1 mL, 43.3 mmol) in ethanol (22 mL) was heated to 80° C. and stirred for 17.5 h. The reaction was cooled to room temperature, diluted with water, filtered, rinsed with water, and dried under vacuum to provide 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridin-3(2H)-one, which was carried onto the next step without further purification. MS ESI calc'd. for C7H6ClN3O [M+1]+ 184. found 184.

reactant | ethyl 4,6-dichloro-2-methylnicotinate | 21.36 mmol, 5.00 g | ClC1=CC(=NC(=C1C(=O)OCC)C)Cl | C9H9Cl2NO2
reactant | hydrazine monohydrate | 43.3 mmol, 2.1 mL | O.NN
solvent | ethanol | 22 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridin-3(2H)-one | ClC1=CC2=C(C(=N1)C)C(NN2)=O | C7H6ClN3O
